US07470790B2
Synthesis of {6-[1-(2-tert-butoxycarbonylamino-ethyl)-4-hydroxy-pyrrolidin-3-ylmethyl]-pyridin-2-yl}-carbamic acid tert-butyl ester (II-2)
A mixture of [6-(4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester II-1 (0.01 mol), (2-bromo-ethyl)-carbamic acid tert-butyl (0.012 mol), anhydrous K2CO3 (0.02 mol) in 50 mL anhydrous DMF was stirred at room temperature overnight. Solids were filtered off. The filtrate was evaporated under reduced pressure. The residue was partitioned between EtOAc and water. The organic layer was washed with brine, dried over anhydrous Na2SO4, and evaporated in vacuo. The obtained residue was purified by column chromatography (silica gel, CH2Cl2:MeOH, 9:1). (57%)

reactant | [6-(4-hydroxy-pyrrolidin-3-ylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CNCC1O)=O | C15H23N3O3
reactant | K2CO3 | 0.02 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | {6-[1-(2-tert-butoxycarbonylamino-ethyl)-4-hydroxy-pyrrolidin-3-ylmethyl]-pyridin-2-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1CN(CC1O)CCNC(=O)OC(C)(C)C)=O | C22H36N4O5
